US04489003
8 g (20 mmol) of tert.butyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 25 g (250 mmol) of cyclohexanol and 1.8 g (8 mmol) of tetraethyl orthotitanate are stirred at 120° overnight, the excess cyclohexanol is removed in a water-jet vacuum and the residue is taken up in chloroform. The solution obtained is stirred for 0.5 hour with 40 ml of a 1:1 mixture of concentrated hydrochloric acid and water, the organic phase is separated, washed once with 1N hydrochloric acid and once with saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By recrystallization from ethanol there is obtained cyclohexyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 203°-204°.

reactant | tert.butyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 20 mmol, 8 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18BrN3O3
reactant | cyclohexanol | 250 mmol, 25 g | C1(CCCCC1)O | C6H12O
reactant | hydrochloric acid | Cl | ClH
catalyst | tetraethyl orthotitanate | 8 mmol, 1.8 g | CCO.CCO.CCO.CCO.[Ti]
solvent | water | O | H2O
product | cyclohexyl (S)-8-bromo-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCC3)CC1)=O | C20H20BrN3O3
